US08895313B2
2-Hydroxy-N-[3-hydroxy-4-(6-hydroxy-1,3-benzothiazol-2-yl)phenyl]-5-(trifluoromethoxy)benzamide
Prepared as described in the Demethylation section using 2-methoxy-N-[3-methoxy-4-(6-methoxy-1,3-benzothiazol-2-yl)phenyl]-5-(trifluoromethoxy)benzamide (0.30 g, 0.595 mmol) in dry DCM (12 ml) and BBr3 (1.0M in DCM, 1.9 ml, 1.9 mmol) at −78° C. under an atmosphere of argon. Additional BBr3 (1.0 M in DCM, 1.9 ml, 1.9 mmol) was added dropwise and the reaction mixture stirred at room temperature for 4 d to give the title compound (88 mg, 32%) as a pale yellow solid after work-up and flash chromatography (4:2:0.3 Hexane/EtOAc/MeOH).

reactant | 2-methoxy-N-[3-methoxy-4-(6-methoxy-1,3-benzothiazol-2-yl)phenyl]-5-(trifluoromethoxy)benzamide | 0.595 mmol, 0.30 g | COC1=C(C(=O)NC2=CC(=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)OC)C=C(C=C1)OC(F)(F)F | C24H19F3N2O5S
reactant | BBr3 | 1.9 mmol, 1.0M, 1.9 ml | B(Br)(Br)Br | BBr3
reactant | BBr3 | 1.9 mmol, 1.0 M, 1.9 ml | B(Br)(Br)Br | BBr3
reactant | Hexane EtOAc MeOH | CCCCCC.CCOC(=O)C.CO
solvent | DCM | 12 ml | C(Cl)Cl | CH2Cl2
product | 2-Hydroxy-N-[3-hydroxy-4-(6-hydroxy-1,3-benzothiazol-2-yl)phenyl]-5-(trifluoromethoxy)benzamide | 88 mg, 32% | OC1=C(C(=O)NC2=CC(=C(C=C2)C=2SC3=C(N2)C=CC(=C3)O)O)C=C(C=C1)OC(F)(F)F | C21H13F3N2O5S
